US07560473B2
Preparation of N-(1-methylethyl)-2,3-dimethyl-2-butyl amine•hydrochloride
To a solution of 100.0 g N-(1-methylethyl)-2,3-dimethyl-2-butylamine in 200 mL ethanol, 100 mL hydrochloric acid was added with shaking and cooling in an glacial water bath. The solvent was distilled off to dry in vacuum. The residue was dissolve in ethanol, then distilled off to dry in vacuum and crystallized from 1:1 i-PrOH-c-Hex-H to give a solid 130.5 g (95.5%), mp 228-230° C.(i-PrOH:Et2O). Elemental analysis for C9H22ClN(%): Calculated C, 60.14; H, 12.34; N, 7.79; Cl, 19.73. Found C, 60.14; H, 12.48; N, 7.31; Cl, 19.67. 1H-NMR (D2O, ppm) 0.98(d, J=6.75H, 6H), 1.33(s, 6H), 1.37(d, J=6.46, 6H), 2.10(m, 1H), 3.70(m, 1H). MS(m/z) 143(M+), 100(B).

reactant | N-(1-methylethyl)-2,3-dimethyl-2-butylamine | 100.0 g | CC(C)NC(C)(C(C)C)C | C9H21N
reactant | hydrochloric acid | 100 mL | Cl | ClH
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | N-(1-methylethyl)-2,3-dimethyl-2-butyl amine•hydrochloride | 130.5 g, 95.5% | CC(C)NC(C)(C(C)C)C.Cl | InChI=1S/C9H21N.ClH/c1-7(2)9(5,6)10-8(3)4;/h7-8,10H,1-6H3;1H
